US05811456
Example 13: Preparation of the compound (I-b1): Benzaldehyde (2-cyanoethyl)(ethoxycarbonyl)hydrazone
1.08 g (10-2 moles) of ethyl chloroformate in solution in 5 ml of anhydrous ethyl acetate are added dropwise to a solution containing 10-2 moles of benzaldehyde (2-cyanoethyl)hydrazone and 0.79 g (10-2 moles) of anhydrous pyridine in 20 ml of anhydrous ethyl acetate, with stirring in the cold. The reaction mixture is slowly heated to reflux temperature and left stirring for 2 hours and then filtered hot.

reactant | ethyl chloroformate | 10-2 moles, 1.08 g | ClC(=O)OCC | C3H5ClO2
reactant | benzaldehyde (2-cyanoethyl)hydrazone | 10-2 moles | C(#N)CCNN=CC1=CC=CC=C1 | C10H11N3
reactant | pyridine | 10-2 moles, 0.79 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Benzaldehyde (2-cyanoethyl)(ethoxycarbonyl)hydrazone | C(#N)CCN(N=CC1=CC=CC=C1)C(=O)OCC | C13H15N3O2
